US07151097B2
Preparation of Intermediate 4-(2-Aminoethylamino)-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic Acid (I-4d)
A solution of 4-(2-tert-butoxycarbonylaminoethylamino)-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid (I-4c, 879 mg) in 2:1 conc HCl/EtOH (12 ml) was allowed to stand at room temperature for 17 hours. The reaction mixture was concentrated under vacuum to give the desired product I-4d: +ES MS (M+1) 391.4.

reactant | 4-(2-tert-butoxycarbonylaminoethylamino)-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid | 879 mg | C(C)(C)(C)OC(=O)NCCNC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C(=O)O | C23H24Cl2N4O4
reactant | HCl EtOH | 12 ml | Cl.CCO
product | 4-(2-Aminoethylamino)-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic Acid | NCCNC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C(=O)O | C18H16Cl2N4O2
